US08871782B2
A solution of 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.41 mmol) in chloroform (15 mL) was cooled to 0° C. Isobutyryl chloride (0.147 mL, 1.40 mmol) was added dropwise, and the reaction was stirred for 30 minutes. The reaction was diluted with chloroform and poured into 3% aqueous sodium carbonate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting white solid was recrystallized from acetonitrile to yield 0.450 g of N-{3-[4-amino-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yloxy]propyl}-2-methylpropanamide as feathery, white crystals, mp 179-181° C.

reactant | 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.41 mmol, 0.500 g | NCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C20H29N5O
reactant | Isobutyryl chloride | 1.40 mmol, 0.147 mL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yloxy]propyl}-2-methylpropanamide | 0.450 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)CCC)OCCCNC(C(C)C)=O | C24H35N5O2
